US07855194B2
Step 2: 4-(5-Hydroxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a stirred solution of 4-(5-bromo-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (12.4 g, 34.8 mmol, 1.0 equiv) in dioxane (100 mL) was added bis(pinacolato)diboron (13.25 g, 52.2 mmol, 1.5 equiv) and potassium acetate (10.4 g, 105 mmol, 3.0 equiv). After 15 min, bis(triphenylphosphine) palladium(II) chloride (1.47 g, 2.1 mmol, 0.06 equiv) was added and the reaction mixture was warmed up to 90° C. After 3 h, the reaction mixture was cooled down to 0° C. and glacial acetic acid (3.02 mL, 3.17 g, 52.2 mmol, 1.5 equiv) was added, followed by a solution of 30% hydrogen peroxide in water (6.58 mL, 7.44 g, 76.5 mmol, 1.5 equiv) and then warmed up to rt. After 16 h, the reaction mixture was poured into ice water and extracted twice with dichloromethane. The combined organic layers were washed with brine and water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 6.81 g (66%) of the title compound as yellow foam. MS (ISP): 295.3 [M+H]+.

reactant | 4-(5-bromo-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 34.8 mmol, 12.4 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)Br | C14H21BrN4O2
reactant | bis(pinacolato)diboron | 52.2 mmol, 13.25 g, 1.5 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 105 mmol, 10.4 g, 3.0 equiv | C(C)(=O)[O-].[K+]
reactant | acetic acid | 52.2 mmol, 3.02 mL, 3.17 g, 1.5 equiv | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 76.5 mmol, 6.58 mL, 7.44 g, 1.5 equiv | O | H2O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) chloride | 2.1 mmol, 1.47 g, 0.06 equiv | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(5-Hydroxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 6.81 g, 66% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)O | C14H22N4O3
